US07291635B2
3-(1,1,4-Trioxo-1,2,5-thiadiazolidin-2-yl)-benzoic acid
A solution of sodium hydroxide (105.4 mg, 2.64 mmol) in water (2.54 g) is added to a solution of the Example 37 title compound, 3-(1,1,4-Trioxo-1,2,5-thiadiazolidin-2-yl)-benzoic acid methyl ester (37.1 mg, 0.137 mmol) in MeOH (5.48 mL). This is allowed to stir 13 h and then neutralized by addition of 1N aqueous HCl (2.64 mL). The reaction mixture is loaded onto a preparative reverse phase HPLC column (YMC CombiPrep Pro C18, 50×20 mm I.D., particle size S-5 micron, 12 nM) in two equal aliquots and eluted at 30 mL/min with a gradient of 100:0 (water containing 0.1% TFA: MeCN) for 0 min to 2.5 min, then to 10:90 at 5.5 min. Then held at 10:90 until 7 min. Fractions containing the product are combined and concentrated on a Savant Speedvac to yield 3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzoic acid as a white powder: API-Ms [M−H]=255.09.

reactant | sodium hydroxide | 2.64 mmol, 105.4 mg | [OH-].[Na+]
reactant | 3-(1,1,4-Trioxo-1,2,5-thiadiazolidin-2-yl)-benzoic acid methyl ester | 0.137 mmol, 37.1 mg | COC(C1=CC(=CC=C1)N1S(NC(C1)=O)(=O)=O)=O | C10H10N2O5S
solvent | water | 2.54 g | O | H2O
solvent | MeOH | 5.48 mL | CO | CH4O
product | 3-(1,1,4-Trioxo-1,2,5-thiadiazolidin-2-yl)-benzoic acid | O=S1(N(CC(N1)=O)C=1C=C(C(=O)O)C=CC1)=O | C9H8N2O5S
